US05801176
N-[4-[4-(6-Fluorobenzo[b]thien-3-yl)-1-piperazinyl]butyl]-4-fluoro-benzamid
To a 0° C. solution of 4-(6-fluorobenzo[b]thien-3-yl)-1-piperazine-butanamine (2.45 g, 7.97 mmol), triethylamine (1.23 g, 12.2 mmol), and dichloromethane (30 mL) under a nitrogen atmosphere was added 4-fluorobenzoyl chloride (1.61 g, 10.2 mmol) in one portion. The reaction was stirred at 0° C. for 70 minutes and then at room temperature for 3 hours. The reaction was diluted with dichloromethane (50 mL) and the mixture was washed successively with 5% aqueous NaOH (50 mL) and water (50 mL), dried (Na2SO4), and concentrated in vacuo to a tan solid. The crude product was chromatographed on silica gel with 10% ethanol/dichloromethane as eluent to afford an 2.22 g of an off-white solid. Recrystallization from ethyl acetate/heptane gave 1.60 g (46%) of the title compound as beige needles, m.p. 161°-163° C.

reactant | 4-(6-fluorobenzo[b]thien-3-yl)-1-piperazine-butanamine | 7.97 mmol, 2.45 g | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCN)C1 | C16H22FN3S
reactant | triethylamine | 12.2 mmol, 1.23 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 10.2 mmol, 1.61 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-[4-[4-(6-Fluorobenzo[b]thien-3-yl)-1-piperazinyl]butyl]-4-fluoro-benzamid | 2.22 g | FC=1C=CC2=C(SC=C2N2CCN(CC2)CCCCNC(C2=CC=C(C=C2)F)=O)C1 | C23H25F2N3OS
